### ISSUE TITLE
failed to realize constant with structural recursion and dependent match

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#10195]
A function with a dependent `match` can be defined recursively, but trying to derive the equations fails:

```lean
inductive Vec (α : Type u) : Nat → Type u
  | nil  : Vec α 0
  | cons : α → {n : Nat} → Vec α n → Vec α (n+1)

set_option trace.split.failure true

def decEqVecPlain {α} {a} [DecidableEq α] (x : @Vec α a) (x_1 : @Vec α a) : Decidable (x = x_1) :=
  if h : Vec.ctorIdx x = Vec.ctorIdx x_1 then
    match x, x_1, h with
    | Vec.nil, Vec.nil, _ => isTrue rfl
    | Vec.cons a_1 a_2, Vec.cons b b_1, _ =>
        if h_1 : @a_1 = @b then by
          subst h_1
          exact
            let inst := decEqVecPlain @a_2 @b_1;
            if h_2 : @a_2 = @b_1 then by subst h_2; exact isTrue rfl
            else isFalse (by intro n; injection n; apply h_2 _; assumption)
        else isFalse (by intro n_1; injection n_1; apply h_1 _; assumption)
  else isFalse (fun h' => h (congrArg Vec.ctorIdx h'))
termination_by structural x

-- Splitter and eqns generated just fine
#check decEqVecPlain.match_1
#check decEqVecPlain.match_1.eq_1


/--
error: Failed to realize constant decEqVecPlain.eq_def:
  failed to generate equational theorem for `decEqVecPlain`
  case nil.isTrue
  α : Type u_1
  inst : DecidableEq α
  x_1 : Vec α 0
  h✝ : Vec.nil.ctorIdx = x_1.ctorIdx
  ⊢ (match (motive :=
          (a : Nat) →
            (x x_1 : Vec α a) →
              x.ctorIdx = x_1.ctorIdx →
                Vec.rec PUnit (fun a {n} a a_ih => ((x_1 : Vec α n) → Decidable (a = x_1)) ×' a_ih) x →
                  Decidable (x = x_1))
          0, Vec.nil, x_1, ⋯ with
        | .(0), Vec.nil, Vec.nil, x => fun x => isTrue ⋯
        | .(n + 1), Vec.cons a_1 a_2, Vec.cons b b_1, x => fun x_2 =>
          if h : a_1 = b then
            Eq.rec (motive := fun x x_3 =>
              (Vec.cons a_1 a_2).ctorIdx = (Vec.cons x b_1).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons x b_1))
              (fun x =>
                if h_2 : a_2 = b_1 then
                  Eq.rec (motive := fun x x_3 =>
                    (Vec.cons a_1 a_2).ctorIdx = (Vec.cons a_1 x).ctorIdx →
                      Decidable (Vec.cons a_1 a_2 = Vec.cons a_1 x))
                    (fun x => isTrue ⋯) h_2 x
                else isFalse ⋯)
              ⋯ x
          else isFalse ⋯)
        PUnit.unit =
      match 0, Vec.nil, x_1, ⋯ with
      | .(0), Vec.nil, Vec.nil, x => isTrue ⋯
      | .(n + 1), Vec.cons a_1 a_2, Vec.cons b b_1, x =>
        if h : a_1 = b then
          Eq.rec (motive := fun x x_2 =>
            (Vec.cons a_1 a_2).ctorIdx = (Vec.cons x b_1).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons x b_1))
            (fun x =>
              if h_2 : a_2 = b_1 then
                Eq.rec (motive := fun x x_2 =>
                  (Vec.cons a_1 a_2).ctorIdx = (Vec.cons a_1 x).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons a_1 x))
                  (fun x => isTrue ⋯) h_2 x
              else isFalse ⋯)
            ⋯ x
        else isFalse ⋯
---
error: Unknown constant `decEqVecPlain.eq_def`
---
trace: [split.failure] `split` tactic failed to generalize discriminant(s) at
      match (motive :=
        (a : Nat) →
          (x x_1 : Vec α a) →
            x.ctorIdx = x_1.ctorIdx →
              Vec.rec PUnit (fun a {n} a a_ih => ((x_1 : Vec α n) → Decidable (a = x_1)) ×' a_ih) x →
                Decidable (x = x_1))
        0, Vec.nil, x_1, ⋯ with
      | .(0), Vec.nil, Vec.nil, x => fun x => isTrue ⋯
      | .(n + 1), Vec.cons a_1 a_2, Vec.cons b b_1, x => fun x_2 =>
        if h : a_1 = b then
          Eq.rec (motive := fun x x_3 =>
            (Vec.cons a_1 a_2).ctorIdx = (Vec.cons x b_1).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons x b_1))
            (fun x =>
              if h_2 : a_2 = b_1 then
                Eq.rec (motive := fun x x_3 =>
                  (Vec.cons a_1 a_2).ctorIdx = (Vec.cons a_1 x).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons a_1 x))
                  (fun x => isTrue ⋯) h_2 x
              else isFalse ⋯)
            ⋯ x
        else isFalse ⋯
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
[split.failure] `split` tactic failed to generalize discriminant(s) at
      match 0, Vec.nil, x_1, ⋯ with
      | .(0), Vec.nil, Vec.nil, x => isTrue ⋯
      | .(n + 1), Vec.cons a_1 a_2, Vec.cons b b_1, x =>
        if h : a_1 = b then
          Eq.rec (motive := fun x x_2 =>
            (Vec.cons a_1 a_2).ctorIdx = (Vec.cons x b_1).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons x b_1))
            (fun x =>
              if h_2 : a_2 = b_1 then
                Eq.rec (motive := fun x x_2 =>
                  (Vec.cons a_1 a_2).ctorIdx = (Vec.cons a_1 x).ctorIdx → Decidable (Vec.cons a_1 a_2 = Vec.cons a_1 x))
                  (fun x => isTrue ⋯) h_2 x
              else isFalse ⋯)
            ⋯ x
        else isFalse ⋯
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
-/
#guard_msgs in
#print sig decEqVecPlain.eq_def
```

The `match` statement gets compiled and gets splitters and matchers just fine, but then the call to `split` from `Lean.Elab.Structural.mkProof` fails.

It seems that it first proceeds by unfolding the `.brecOn` on the left, then sees the `.rec` and does a case-split on the first argument. This means we now have `match 0, .nil, x2`, and now `MVarId.split` fails.

Unclear what a good fix here would be. The structural equation compiler is a bit fragile.

(~~I wonder if we can do splitting only based on the RHS, never unfold the LHS to expose scary things like `.rec`, and get to something that will just `.refl`. 🤷🏻~~ I remember, that doesn't work because we still need to split on `if-then-else` on both sides, I believe. The failed experiment at #5669 may be relevant.).

### Versions

Lean 4.24.0-nightly-2025-08-31

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Here is a more minimal example:
```
inductive I : Type u | cons : I → I
axiom P : I → Bool
axiom R : I → Type
set_option trace.split.failure true in
noncomputable def foo (x : @I) (x_1 : @I) : R x :=
 if h : P x then
 match x, x_1 with
 | .cons a_2, .cons b_1 => (sorry : _ → _) (foo @a_2 @b_1)
 else sorry
termination_by structural x

/--
error: Failed to realize constant foo.eq_1:
  failed to generate equational theorem for `foo`
  case isTrue
  x_1 : I
  a : I
  h✝ : P a.cons = true
  ⊢ (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1, h✝ with
        | a_2.cons, b_1.cons, h => fun x => sorry (x.1 b_1))
        (I.rec
          (fun a a_ih =>
            ⟨fun x_1 =>
              if h : P a.cons = true then
                (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons,
                    x_1, h with
                  | a_2.cons, b_1.cons, h => fun x => sorry (x.1 b_1))
                  a_ih
              else sorry,
              a_ih⟩)
          a) =
      match a.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h => sorry (foo a_2 b_1)
---
error: Unknown constant `foo.eq_1`
---
trace: [split.failure] `split` tactic failed to generalize discriminant(s) at
      match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h => fun x => sorry (x.1 b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
[split.failure] `split` tactic failed to generalize discriminant(s) at
      match a.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h => sorry (foo a_2 b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
-/
#guard_msgs in
#print sig foo.eq_1
```

It looks as if omitting `h` from the `match` makes the problem not go away, but really `match` re-adds `h` implicitly. Only with
```
noncomputable def foo (x1 x2: I) : R x1  :=
  if h : P x1 then
    match (generalizing := false) x1, x2 with
    | .cons y1, .cons y2 => (sorry : _ → _) (foo y1 y2)
  else sorry
termination_by structural x1
```
the error disappears.

**Comment by nomeata** [comment]
Reproducer without using the `.eq_def` machinery:

```
axiom testSorry : α

inductive I : Type u | cons : I → I
axiom P : I → Bool
axiom R : I → Type
set_option trace.split.failure true in
noncomputable def foo (x : @I) (x_1 : @I) : R x :=
 if h : P x then
 match x, x_1 with
 | .cons a_2, .cons b_1 => (testSorry : _ → _) (foo @a_2 @b_1)
 else testSorry
termination_by structural x


/--
error: Tactic `split` failed: Could not split an `if` or `match` expression in the goal

case isTrue
x_1 : I
x : I
h✝ : P x.cons = true
⊢ (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) x.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h => fun x => testSorry (x.1 b_1))
      (I.rec
        (fun a a_ih =>
          ⟨fun x_1 =>
            if h : P a.cons = true then
              (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1,
                  h with
                | a_2.cons, b_1.cons, h => fun x => testSorry (x.1 b_1))
                a_ih
            else testSorry,
            a_ih⟩)
        x) =
    match x.cons, x_1, h✝ with
    | a_2.cons, b_1.cons, h =>
      testSorry
        ((I.rec
              (fun a a_ih =>
                ⟨fun x_1 =>
                  if h : P a.cons = true then
                    (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x)
                        a.cons, x_1, h with
                      | a_2.cons, b_1.cons, h => fun x => testSorry (x.1 b_1))
                      a_ih
                  else testSorry,
                  a_ih⟩)
              a_2).1
          b_1)
---
trace: [split.failure] `split` tactic failed to generalize discriminant(s) at
      match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) x.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h => fun x => testSorry (x.1 b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
[split.failure] `split` tactic failed to generalize discriminant(s) at
      match x.cons, x_1, h✝ with
      | a_2.cons, b_1.cons, h =>
        testSorry
          ((I.rec
                (fun a a_ih =>
                  ⟨fun x_1 =>
                    if h : P a.cons = true then
                      (match (motive := (x : I) → I → P x = true → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x)
                          a.cons, x_1, h with
                        | a_2.cons, b_1.cons, h => fun x => testSorry (x.1 b_1))
                        a_ih
                    else testSorry,
                    a_ih⟩)
                a_2).1
            b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
-/
#guard_msgs in
theorem foo_eq : foo (x : @I) (x_1 : @I) =
  if h : P x then
  match x, x_1 with
  | .cons a_2, .cons b_1 => (testSorry : _ → _) (foo @a_2 @b_1)
  else testSorry := by
  delta foo
  delta I.brecOn
  cases x
  case cons x =>
    dsimp
    split
    · set_option trace.split.failure true in
      split
      -- this would work here:
      -- cases x_1; simp
    · rfl
```

**Comment by nomeata** [comment]
And this variant shows that (unfortunately) the issue is not solved by just avoiding the `h : P x` discriminant, although here the `foo.eq_def` can be derived – looks like the equation solver goes a different path then.

```
axiom testSorry : α

inductive I : Type u | cons : I → I
axiom P : I → Bool
axiom R : I → Type
set_option trace.split.failure true in
noncomputable def foo (x : @I) (x_1 : @I) : R x :=
 -- if h : P x then
 match x, x_1 with
 | .cons a_2, .cons b_1 => (testSorry : _ → _) (foo @a_2 @b_1)
 -- else testSorry
termination_by structural x


/--
error: Tactic `split` failed: Could not split an `if` or `match` expression in the goal

x_1 : I
x : I
⊢ (match (motive := (x : I) → I → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) x.cons, x_1 with
      | a_2.cons, b_1.cons => fun x => testSorry (x.1 b_1))
      (I.rec
        (fun a a_ih =>
          ⟨fun x_1 =>
            (match (motive := (x : I) → I → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1 with
              | a_2.cons, b_1.cons => fun x => testSorry (x.1 b_1))
              a_ih,
            a_ih⟩)
        x) =
    match x.cons, x_1 with
    | a_2.cons, b_1.cons =>
      testSorry
        ((I.rec
              (fun a a_ih =>
                ⟨fun x_1 =>
                  (match (motive := (x : I) → I → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1 with
                    | a_2.cons, b_1.cons => fun x => testSorry (x.1 b_1))
                    a_ih,
                  a_ih⟩)
              a_2).1
          b_1)
---
trace: [split.failure] `split` tactic failed to generalize discriminant(s) at
      match (motive := (x : I) → I → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) x.cons, x_1 with
      | a_2.cons, b_1.cons => fun x => testSorry (x.1 b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
[split.failure] `split` tactic failed to generalize discriminant(s) at
      match x.cons, x_1 with
      | a_2.cons, b_1.cons =>
        testSorry
          ((I.rec
                (fun a a_ih =>
                  ⟨fun x_1 =>
                    (match (motive := (x : I) → I → I.rec (fun a a_ih => (I → R a) ×' a_ih) x → R x) a.cons, x_1 with
                      | a_2.cons, b_1.cons => fun x => testSorry (x.1 b_1))
                      a_ih,
                    a_ih⟩)
                a_2).1
            b_1)
    resulting expression was not type correct
    possible solution: generalize discriminant(s) manually before using `split`
-/
#guard_msgs in
theorem foo_eq : foo (x : @I) (x_1 : @I) =
    --if h : P x then
    match x, x_1 with
    | .cons a_2, .cons b_1 => (testSorry : _ → _) (foo @a_2 @b_1)
    -- else testSorry
  := by
  delta foo
  delta I.brecOn
  cases x
  case cons x =>
    dsimp
    -- this would work here: cases x_1; dsimp
    set_option trace.split.failure true in
    split
```

**Comment by nomeata** [comment]
More debugging: The issue seems to arise whenever `split` has to generalize the discriminants. This can happen for a variety of reasons: we first do cases on the first argument, and now one discriminant isn't a variable anymore, or (even more sad) a proof argument is not a free variable as in this case:

```
axiom testSorry : α

inductive I : Nat → Type u | cons : I n → I (n + 1)
axiom P : I n → Prop
@[instance] axiom instDecEqI : ∀ (x : I n), Decidable (P x)
axiom R : I n → Type
set_option trace.split.failure true in
noncomputable def foo (x x' : I n) : R x :=
 if h : P x then
 match (generalizing := false) x, x', id h with
 | .cons a_2, .cons a_2', _ => (testSorry : _ → _ → _) (foo a_2 a_2') h
 else testSorry
termination_by structural x

#print sig foo.eq_def
```

The problem arises with dependent motives (e.g. `Decidable (x_1 = x_2)`), and now the LHS is still in terms of the old discriminants, and the RHS in terms of the new.

If it were just Prop discriminants, one could abstract over them beforehand (proof irrelevance FTW), but it doesn't quite solve the general case.

**Comment by nomeata** [comment]
Ok, opened #10424 for the underlying issue with `split`.
